US05411973
4,4,4-Trifluoro-3-hydroxy-3-methyl-1-(4-[2-pyridylcarbonyl]phenyl)but-1-yne.
To 150 mL tetrahydrofuran was added diisopropylamine (2.4 g), and the mixture was then cooled to -78° C. n-Butyl-lithium was added (8.1 mL, 2.5 molar solution in hexanes). To this mixture was added a solution which had been prepared by dissolving 4-(2-pyridylcarbonyl) phenyl ethyne (3.5 g) in a few mL tetrahydrofuran. The mixture was allowed to stir for 25 minutes. 1,1,1-trifluoroacetone (4.76 g) was added in one portion and the mixture was stirred for 15 minutes. The reaction mixture was then poured into 30 mL aqueous saturated NH4Cl. The ensuing mixture was extracted with 3×300 mL diethyl ether. The organic layers were combined, dried over MgSO4, filtered and evaporated to dryness. The oily residue was chromatographed on silica gel eluting with 80/20 hexane/ethyl acetate. The appropriate fractions were combined and evaporated to dryness. The remaining solid was recrystallized from diethyl ether-hexanes to yield 60 mg of the title compound; mp 116°-118° C.; (300 MHz, (CDCl3): 1.74 (s,3, methyl), 2.79 (s,1, OH), 7.49-7.53 (m,2, aromatic), 7.54-7.58 (d,2, aromatic), 7.89-7.95 (t,1, aromatic), 8.06-8.09 (d,2, aromatic), 8.71-8.73 (d,1, aromatic); Analysis for C17H12F3O2N: Calculated: C, 63.95; H, 3.79; N, 4.39; Found: C, 63.96; H, 3.97; N, 4.38.

reactant | diisopropylamine | 2.4 g | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyl-lithium | C(CCC)[Li]
reactant | 4-(2-pyridylcarbonyl) phenyl ethyne | 3.5 g | N1=C(C=CC=C1)C(=O)C1=CC=C(C=C1)C#C | C14H9NO
reactant | 1,1,1-trifluoroacetone | 4.76 g | FC(C(=O)C)(F)F | C3H3F3O
reactant | NH4Cl | 30 mL | [NH4+].[Cl-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 4,4,4-Trifluoro-3-hydroxy-3-methyl-1-(4-[2-pyridylcarbonyl]phenyl)but-1-yne | 60 mg | FC(C(C#CC1=CC=C(C=C1)C(=O)C1=NC=CC=C1)(C)O)(F)F | C17H12F3NO2
